US05663200
5e) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-{[p-(2-phenylethyl)phenyl]methyl}hexanoic acid
5.15 g (10.31 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-{[p-(2-phenylethyl)phenyl]methyl}dihydrofuran-2-(3H)-one in 166 ml of dimethoxyethane and 85 ml of water are hydrolysed, under protective gas, with 41 ml of a 1M lithium hydroxide solution. After 3 h, the dimethoxyethane is evaporated off on an RE, and the residue is treated with an ice-cold mixture of 506 ml of sat. NH4Cl solution, 42 ml of 10% citric acid solution and 207 ml of methylene chloride. Methanol is added to dissolve the product completely. The aqueous phase is separated off and extracted 2× with methylene chloride/methanol, 10:1. The organic phases are washed with saline, dried with Na2SO4 and evaporated: tRet (II)=17.8 min.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-{[p-(2-phenylethyl)phenyl]methyl}dihydrofuran-2-(3H)-one | 10.31 mmol, 5.15 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)CCC1=CC=CC=C1 | C32H37NO4
reactant | lithium hydroxide | 1M | [OH-].[Li+]
solvent | dimethoxyethane | 166 ml | C(OC)COC | C4H10O2
solvent | water | 85 ml | O | H2O
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-{[p-(2-phenylethyl)phenyl]methyl}hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)CCC1=CC=CC=C1)O)CC1=CC=CC=C1 | C32H39NO5
